US05492925
Preparation of 2-[1-(5-Bromo-3-thienyl)-2-nitroethyl]-4(p-chlorophenyl)-2-(trifluoromethyl)-3-oxazolin-5-one
A solution of triethylamine (0.30 g, 3 mmol) in toluene is added to a solution of 4-(p-chlorophenyl)-2-(trifluoromethyl)-3-oxazolin-5-one (10.00 g, 38 mmol) and 2-bromo-4-(2-nitrovinyl)thiophene (8.98 g, 32 mmol) in toluene at 0° C. The reaction mixture is warmed to room temperature and diluted with dilute hydrochloric acid and ether. The organic layer is separated, dried over MgSO4, concentrated in vacuo, diluted with hexane, stirred at reflux, cooled to room temperature and decanted to obtain a clear solution. The solution is concentrated in vacuo and chromatographed to give the title product.

reactant | triethylamine | 3 mmol, 0.30 g | C(C)N(CC)CC | C6H15N
reactant | 4-(p-chlorophenyl)-2-(trifluoromethyl)-3-oxazolin-5-one | 38 mmol, 10.00 g | ClC1=CC=C(C=C1)C1=NC(OC1=O)C(F)(F)F | C10H5ClF3NO2
reactant | 2-bromo-4-(2-nitrovinyl)thiophene | 32 mmol, 8.98 g | BrC=1SC=C(C1)C=C[N+](=O)[O-] | C6H4BrNO2S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-[1-(5-Bromo-3-thienyl)-2-nitroethyl]-4(p-chlorophenyl)-2-(trifluoromethyl)-3-oxazolin-5-one | BrC1=CC(=CS1)C(C[N+](=O)[O-])C1(OC(C(=N1)C1=CC=C(C=C1)Cl)=O)C(F)(F)F | C16H9BrClF3N2O4S
